Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
s/p fall
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Ms. ___ is an ___ yo F, ___ speaking, with history of
DM, who is transferred from an OSH after a fall, unclear if
mechanical fall or syncope. Unknown LOC. CT head at OSH was read
as 4mm right SDH, Left orbital floor fracture, Left maxillary
anterior/lateral wall sinus fracture. Initial VS on presentation
included BP 212/85, HR 50. She was given nitro sl and nitro 
paste
1", with subsequent BPs 136-158/65-70. Troponin was negative x 
2,
but one of the EKGs recorded showed second degree AV block,
Mobitz type 1. She was also given IVFs 250cc. She was
subsequently transferred to ___ for further workup and 
imaging.
She now denies any acute pain, chest pain, shortness of breath,
abdominal pain, nausea, vomiting, urinary symptoms, fevers
chills. She does endorse chronic bilateral knee and back pain.
 
Past Medical History:
-Diabetes
 
Social History:
___
Family History:
No family history of early heart disease
 
Physical Exam:
Admit Physical Exam:
Vital Signs: 97.2   77   118/67   18   100% RA
Gen: NAD, A&Ox3
HEENT: PERRL, EOMI. Left periorbital ecchymosis and edema. No
nasal septal hematoma. Midface stable. No palpable step-offs. 
CV: RRR, systolic murmur
R: Lungs clear bilaterally
Abd: Soft, minimally distended, minimally tympanic. Nontender. 
No
rebound or guarding. Normoactive bowel sounds. No masses or
hernias palpated. 
Extremities: Warm and well-perfused. No c/c/e. Tenderness to
palpation over bilateral knees. 

Discharge Physical Exam
Vital Signs:  Tm 99.2 Tc 98.2 110s-150s/40s-60s 50-70 18 99 ra  
General: Alert, oriented, no acute distress, ___ speaking 
HEENT: Sclerae anicteric, MMM, oropharynx clear, neck supple, 
JVP not elevated, no LAD. tender to palpation over mandible and 
around L eye, with intact EOM. 
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
CV: ___ mid peaking systolic murmur w/radiation to the carotids, 
regular rate/rhythm 
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Skin: Without rashes or lesions  
Neuro:  CN2-12 intact, full strength in upper and lower 
extremities 
 
Pertinent Results:
ADMISSION LABS:
Trop-T: <0.01  

136  ___   AGap=15  
4.3  24  0.9    

ALT: 30 AP: 59 Tbili: 0.7 Alb: 4.2 
AST: 36 LDH:  Dbili:  TProt:  
___:  Lip: 50     

9.5 > 11.4 < 168 
     32.8  
 N:80.5 L:11.8 M:6.9 E:0.2 Bas:0.2 ___: 0.4 Absneut: 7.61
Abslymp: 1.12 Absmono: 0.65 Abseos: 0.02 Absbaso: 0.02  
 

___: 11.8  PTT: 31.5  INR: 1.1 

IMAGING:
EXAMINATION:  SECOND OPINION CT NEURO PSO1 CT  
  
DOSE:   DLP:  706 mGy-cm (brain) 
DLP:  213 mGy-cm (cervical spine).   
  
COMPARISON:  None. 
  
FINDINGS:    
Hyperdense material layering along the right tentorial leaflet
measures 2 mm in maximal thickness, compatible with acute
subdural hematoma (602 a: 38).  There is no evidence of acute
vascular territorial infarction, edema, or mass. There is mild
prominence of the ventricles and sulci suggestive of 
involutional changes. 
  
There is a left orbital floor fracture, with herniation of fat
through the fracture defect.  There is a small inferior
retro-orbital hematoma, with locules of gas along the fracture
plane (3:7).  Comminuted and mildly depressed anterior maxillary
sinus wall fracture, as well as a lateral lateral maxillary 
sinus
wall fractures are also noted (3:3, 3:5, 3:6).  Opacification of
the left maxillary sinus with hemorrhagic products is noted. 
There is also a left zygomatic arch fracture, nondisplaced 
(3:6).
Periorbital and infraorbital soft tissue swelling is present on
the left.  The right maxillary sinus, ethmoid air cells, frontal
sinuses, and bilateral mastoid air cells and middle ear cavities
are clear.  The globes appear intact. 
  
IMPRESSION:   
1. 2 mm acute subdural hematoma layering along the right
tentorial leaflet. 
2. Fractures of the left orbital floor, left maxillary sinus, 
and
left zygomatic arch, as described above. 
3. Small inferior retro-orbital hematoma without significant
proptosis.  The globe appears intact. 

Repeat CT head
EXAMINATION:  CT HEAD W/O CONTRAST Q111 CT HEAD 
  
COMPARISON:  Outside facility head CT ___. 
  
FINDINGS:    
Since the prior CT performed earlier on the same date, there has
been no significant interval change.  Specifically, the 2 mm
right tentorial subdural hematoma is similar (601b:60).  No new
hemorrhage.  No evidence of acute major vascular territorial
infarction, edema or mass. 
  
There is prominence of the ventricles and sulci suggestive of
involutional changes. Mild periventricular white matter
hypodensities are nonspecific, but likely a sequela of chronic
small vessel disease. 
  
There are known fractures of the left orbital floor, left
maxillary sinus and the left zygomatic arch.  Left axillary
hemosinus persists. 
  
IMPRESSION:  
1. Unchanged 2 mm right tentorial subdural hematoma.  No new
hemorrhage. 
2. Known fractures of the left orbital floor, left maxillary
sinus and left zygomatic arch.

 

 
Brief Hospital Course:
Mx. ___ is a ___ year old female with a history of DM who 
presented as a transfer from OSH s/p syncopal fall, with R SDH, 
L orbit floor fx, L maxillary fx, L zygomatic arch fx, left 
retro-orbital hematoma.  

ACS COURSE:
==================
She was admitted to ___ for observation and monitoring.  Plastic 
surgery and ophthalmology were consulted given her facial 
fractures and SDH. They did not recommend any acute 
intterventions but would like the patient to follow-up 
outpatient.  Neurosurgery was also consulted and felt that the 
patient did not require acute intervention.  A repeat CT scan 
was ordered which demonstrated  unchanged 2 mm right tentorial 
subdural hematoma.  No new hemorrhage.  Neurosurgery also 
requested a follow-up non-contrast head CT HD 2, ___, which 
demonstrated Resolution of the previously seen anterior right 
cerebellar tentorial subdural hematoma. 

MEDICINE COURSE:
==================

ACTIVE ISSUES:

# Fall: Fall was likely mechanical given signifiacant balance 
impairments noted walking with ___. Orthostatics were positive 
while inpatient, but her fall did not occur with a position 
change so this less likely was the cause of her fall. She was 
observed on tele without any events. Arrythmia (see below) did 
not recur here and she was never bradycardic so again unlikely 
to be the source of syncope. No aortic stenosis on TEE, and LVOT 
with only mild obstruction. She was seen by ___ who 
recommended rehab. 

#  AV block: One EKG at ___ showed 2:1 and Mobitz Type I AV 
block. She was seen by EP, who reported that her EKG is not 
typical of benign vagal-mediated Wenckebach b/c PR interval is 
largely normal and pt is not bradycardic during episodes. Per 
EP, no indication for PPM at this time. Arrythmia did not recur 
while inpatient.

Chronic issues: 

# Type 2 DM: On ISS while inpatient.  Resumed home metformin on 
discharge 

TRANSITIONAL ISSUES:
[]f/u with ophthalmology for left orbit fracture and 
retro-orbital hematoma - appointment info: When: ___ at 2:30 ___
With: ___, MD ___
[]f/u with plastic surgery for left maxillary fracture. The 
Plastic Surgery department is working on an appointment for the 
patient, however was not scheduled as of discharge. Please call 
them at ___ in 2 business days to check on status of 
follow up appointment.
[]Continue sinus precautions.
[]Continue physical therapy. She was noted to have significant 
gait instability while inpatient.
[]A1c was 5.2 while inpatient. Consider stopping metformin. 
[]TTE Showed inferior and posterior hypokinesis concerning for 
prior RCA myocardial infarction. Could consider starting statin 
as outpatient. Metoprolol and aspirin could be considered but 
would recommend careful consideration given risk of falling and 
+orthostatics while here. 
 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. MetFORMIN XR (Glucophage XR) 500 mg PO DAILY 
2. FLUoxetine 20 mg PO DAILY 
3. Donepezil 5 mg PO QHS 

 
Discharge Medications:
1. Donepezil 5 mg PO QHS 
2. FLUoxetine 20 mg PO DAILY 
3. MetFORMIN XR (Glucophage XR) 500 mg PO DAILY 
4. walker 1  walker miscellaneous ONCE 
Dx: mechanical fall
Prognosis: good
Length of Need: 13 mo
 
RX *walker  one walker once Disp #*1 Each Refills:*0
5. Multivitamins 1 TAB PO DAILY 
6. Acetaminophen ___ mg PO Q8H pain 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
right subdural hematoma, left orbit floor fracture, left 
maxillary fracture, and left retro-orbital hematoma

PRIMARY DIAGNOSES:
right subdural hematoma
left orbit floor fracture
left maxillary fracture
left retro-orbital hematoma
2:1 AV block

SECONDARY DIAGNOSES:
type 2 diabetes mellitus 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to ___ and 
underwent evaluation and observation for your right subdural 
hematoma, left orbit floor fracture, left maxillary fracture, 
and left retro-orbital hematoma after your fall.  You also were 
evaluated for the underlying cause of your syncope and fall. You 
are recovering well and are now ready for discharge. Please 
follow the instructions below to continue your recovery:

 
Followup Instructions:
___